US08106046B2
A solution of ethyl 3-(5-bromothiophen-2-yl)-3-oxopropanoate (3.73 g, 13.46 mmol), benaldehyde (1.501 ml, 14.81 mmol), piperidine (0.133 ml, 1.346 mmol) and acetic acid (0.389 ml, 6.8 mmol) in benzene (50 ml) was heated at 85° C. for 5 h using a Dean-Stark trap for removal of the water formed. The reaction solution was concentrated. The resulting residue was purified via flash chromatography (silica gel cartridge with eluent of 0-5% ethyl acetate/hexane) to give ethyl 2-(5-bromothiophene-2-carbonyl)-3-phenylacrylate as a light amble viscous oil (4.25 g). LCMS m/z 388.99, 390.09 (M+23); HPLC: Rt 3.701 min.

reactant | ethyl 3-(5-bromothiophen-2-yl)-3-oxopropanoate | 13.46 mmol, 3.73 g | BrC1=CC=C(S1)C(CC(=O)OCC)=O | C9H9BrO3S
reactant | piperidine | 1.346 mmol, 0.133 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 6.8 mmol, 0.389 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-(5-bromothiophene-2-carbonyl)-3-phenylacrylate | BrC1=CC=C(S1)C(=O)C(C(=O)OCC)=CC1=CC=CC=C1 | C16H13BrO3S
